US08168821B2
Methyl 4-[(4E)-3-{2-[1-(2-ethoxy-2-oxoethyl)cyclopropyl]ethyl}-5-(2-hydroxyphenyl)pent-4-en-1-yl]benzoate
At 0° C., 0.6 ml (1.5 mmol) of a 2.5 M solution of n-butyllithium in hexane is slowly added to a solution of 359 mg (0.799 mmol) of (2-hydroxybenzyl)triphenylphosphonium bromide in 5 ml of anhydrous THF, and the mixture is stirred for 45 min. At this temperature, 192 mg (0.53 mmol) of methyl 4-{5-[1-(2-ethoxy-2-oxoethyl)cyclopropyl]-3-formylpentyl}benzoate are then added slowly, and the mixture is stirred at 0° C. for 2 hours. After complete conversion, saturated ammonium chloride solution is added to the reaction solution, which is then concentrated to dryness. The residue is taken up in ethyl acetate, washed with water and saturated sodium chloride solution and dried over sodium sulfate. After filtration, the solvent is evaporated to dryness. The crude product obtained is purified by flash chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate 4:1). This gives 178.5 mg (74% of theory) of a colorless oil.

reactant | n-butyllithium | C(CCC)[Li]
reactant | (2-hydroxybenzyl)triphenylphosphonium bromide | 0.799 mmol, 359 mg | [Br-].OC1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1
reactant | methyl 4-{5-[1-(2-ethoxy-2-oxoethyl)cyclopropyl]-3-formylpentyl}benzoate | 0.53 mmol, 192 mg | C(C)OC(CC1(CC1)CCC(CCC1=CC=C(C(=O)OC)C=C1)C=O)=O | C21H28O5
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | Methyl 4-[(4E)-3-{2-[1-(2-ethoxy-2-oxoethyl)cyclopropyl]ethyl}-5-(2-hydroxyphenyl)pent-4-en-1-yl]benzoate | C(C)OC(CC1(CC1)CCC(CCC1=CC=C(C(=O)OC)C=C1)\C=C\C1=C(C=CC=C1)O)=O | C28H34O5
